US05866589
1-Benzyl-4-[N-ethyl-N-(3-amino-2-pyridinyl)amino]piperidine
Following the general procedure of EXAMPLE 204, Part B), and making non-critical variations but substituting 1-benzyl-4-[N-ethyl-N-(3-nitro-2-pyridinyl)amino]piperidine (EXAMPLE 204, Part A) for 1-benzyl-4-[N-propyl-N-(3-nitro-2-pyridinyl)amino]piperidine, the title compound is obtained, NMR (CDCl3) 7.84, 7.31, 7.26, 6.96, 6.85, 3.97, 3.50, 3.18, 3.07, 2.89, 2.02, 1.75 and 0.89δ.

reactant | 1-benzyl-4-[N-ethyl-N-(3-nitro-2-pyridinyl)amino]piperidine | C(C1=CC=CC=C1)N1CCC(CC1)N(C1=NC=CC=C1[N+](=O)[O-])CC | C19H24N4O2
reactant | 1-benzyl-4-[N-propyl-N-(3-nitro-2-pyridinyl)amino]piperidine | C(C1=CC=CC=C1)N1CCC(CC1)N(C1=NC=CC=C1[N+](=O)[O-])CCC | C20H26N4O2
product | 1-Benzyl-4-[N-ethyl-N-(3-amino-2-pyridinyl)amino]piperidine | C(C1=CC=CC=C1)N1CCC(CC1)N(C1=NC=CC=C1N)CC | C19H26N4
